US03937832
β-Morpholino-ethyl ester of 2,2-diphenyl-cyclopropane-carboxylic acid ##EQU5##
A solution of 0.1 mol of 2,2-diphenyl-cyclopropane-carboxylic acid chloride in 30 ml. of anhydrous benzene is added dropwise to a mixture of 0.1 mol of β-morpholino-ethanol and 0.1 mol of triethylamine in 50 ml. of anhydrous benzene. The mixture is allowed to cool and then stirred for 2 hours at ambient temperature. 300 cc. of water are added, the mixture is extracted with diethyl ether, the extract dried over sodium sulphate, and the solvent removed in vacuo to yield the base.

reactant | 2,2-diphenyl-cyclopropane-carboxylic acid chloride | 0.1 mol | C1(=CC=CC=C1)C1(C(C1)C(=O)Cl)C1=CC=CC=C1 | C16H13ClO
reactant | benzene | C1=CC=CC=C1 | C6H6
reactant | β-morpholino-ethanol | 0.1 mol | O1CCN(CC1)CCO | C6H13NO2
reactant | triethylamine | 0.1 mol | C(C)N(CC)CC | C6H15N
solvent | water | O | H2O
product | β-Morpholino-ethyl ester of 2,2-diphenyl-cyclopropane-carboxylic acid | C1COCCN1CCOC(=O)C2CC2(C3=CC=CC=C3)C4=CC=CC=C4 | C22H25NO3
